US05658796
The aqueous phase of the hydrolysis reaction was acidified to pH of 2.0 with conc. HCl forming a white precipitate of (S)-chroman-2-carboxylic acid. The S-acid was extracted into toluene, and the phases were separated. The organic layer was placed in a vessel suitable for acid catalyzed esterification. Sulfuric acid was added to the vessel, and the mixture was heated to reflux. Water was removed by azeotropic distillation. The conversion of the acid to the ester was followed by GC analysis. Isobutyl (S)-chroman-2-carboxylate was thereby formed. Upon completion of the esterification, the sulfuric acid catalyst used in the reaction was removed by washing the reaction product with saturated sodium carbonate, and the S-carboxylate product was azeotropically dried again.

reactant | HCl | Cl | ClH
reactant | (S)-chroman-2-carboxylic acid | O1[C@@H](CCC2=CC=CC=C12)C(=O)O | C10H10O3
product | Isobutyl (S)-chroman-2-carboxylate | O1[C@@H](CCC2=CC=CC=C12)C(=O)OCC(C)C | C14H18O3
